US04695569
To a stirred mixture of 9.16 parts of 2-amino-5-(methylthio)benzoic acid and 100 parts of 1,4-dioxane were added dropwise slowly 9.8 parts of trichloromethyl carbonochloridate. Upon completion, stirring was continued for 2 hours. The reaction mixture was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 8 parts (76%) of 6-(methylthio)-2H-3,1-benzoxazine-2,4(1H)-dione; mp. 219.4° C. (intermediate 153).

reactant | 2-amino-5-(methylthio)benzoic acid | NC1=C(C(=O)O)C=C(C=C1)SC | C8H9NO2S
reactant | trichloromethyl carbonochloridate | C(OC(Cl)(Cl)Cl)(=O)Cl | C2Cl4O2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 6-(methylthio)-2H-3,1-benzoxazine-2,4(1H)-dione | 76% | CSC=1C=CC2=C(C(OC(N2)=O)=O)C1 | C9H7NO3S
